US07893267B2
300 mg (1.5 mmol) of isoquinoline-3-carboxylic acid and 570 mg (1.50 mmol) of HBTU were dissolved in 1.0 mL of DMF and 0.8 mL of DIEA and reacted with 110 mg (0.5 mmol) of 2-amino-7-methoxy-1H-benzoimidazole-4-carboxylic acid methyl ester as described in general procedure A. Upon completion, the reaction was diluted with brine. The resulting solid was filtered, washed with water and EtOAc, and dried under vacuum to produce 70 mg (37%) of 2-[(isoquinoline-3-carbonyl)-amino]-7-methoxy-3H-benzoimidazole-4-carboxylic acid methyl ester. LCMS: 378 (M+1)+.

reactant | isoquinoline-3-carboxylic acid | 1.5 mmol, 300 mg | C1=NC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | HBTU | 1.50 mmol, 570 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-7-methoxy-1H-benzoimidazole-4-carboxylic acid methyl ester | 0.5 mmol, 110 mg | COC(=O)C1=CC=C(C=2NC(=NC21)N)OC | C10H11N3O3
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2-[(isoquinoline-3-carbonyl)-amino]-7-methoxy-3H-benzoimidazole-4-carboxylic acid methyl ester | 70 mg, 37% | COC(=O)C1=CC=C(C=2N=C(NC21)NC(=O)C=2N=CC1=CC=CC=C1C2)OC | C20H16N4O4
